US07105530B2
To a flask containing a magnetic stir bar was added 0.027 g (0.17 mmol) of N,3-dimethyl-1H-indazol-6-amine and 0.058 g (0.19 mmol) of 4-chloro-N-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazin-2-amine and 2 mL of isopropanol and the resultant mixture heated at reflux for ca. 16 hours. Upon cooling the reaction mixture a solid precipitated. The solid was filtered and washed with ethyl acetate (2×4 mL), acetonitrile (4 mL), and ethyl ether (4 mL) and dried under vacuum to give 0.03 g (42%) of N2-methyl-N2-(3-methyl-1H-indazol-6-yl)-N4-{3-[(methylsulfonyl) methyl]phenyl}-1,3,5-triazine-2,4-diamine hydrochloride as a light pink solid. Some of the peaks in the NMR spectrum are broad at room temperature. Heating to 90° C. produces peaks that are well resolved. HNMR: δ 12.5 (br s, 1H), 9.9 (br s, 1H), 8.24 (m, 1H) 7.72 (d, 1H) 7.5 (m), 7.38 (s, 1H), 7.01 (d, 1H) 6.9 (br s, 1H) 3.47 (s, 3H), 2.75 (br s, 3H), 2.47 (s, 3H). HNMR (at 90° C): δ 9.62 (s, 1H), 8.29 (s, 1H), 7.76 (d, 1H), 7.66 (s, 1H), 7.54 (d, 1H), 7.43 (s, 1H) 7.1 (m, 3H), 4.13 (s, 2H), 3.56 (s, 3H), 2.93 (s, 3H), 2.55 (s, 3H); MS (ES+, m/z)=424 (M+H).

reactant | N,3-dimethyl-1H-indazol-6-amine | 0.17 mmol, 0.027 g | CNC1=CC=C2C(=NNC2=C1)C | C9H11N3
reactant | 4-chloro-N-{3-[(methylsulfonyl)methyl]phenyl}-1,3,5-triazin-2-amine | 0.19 mmol, 0.058 g | ClC1=NC(=NC=N1)NC1=CC(=CC=C1)CS(=O)(=O)C | C11H11ClN4O2S
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | N2-methyl-N2-(3-methyl-1H-indazol-6-yl)-N4-{3-[(methylsulfonyl) methyl]phenyl}-1,3,5-triazine-2,4-diamine hydrochloride | 0.03 g, 42% | Cl.CN(C1=NC=NC(=N1)NC1=CC(=CC=C1)CS(=O)(=O)C)C1=CC=C2C(=NNC2=C1)C | InChI=1S/C20H21N7O2S.ClH/c1-13-17-8-7-16(10-18(17)26-25-13)27(2)20-22-12-21-19(24-20)23-15-6-4-5-14(9-15)11-30(3,28)29;/h4-10,12H,11H2,1-3H3,(H,25,26)(H,21,22,23,24);1H
